US08476297B2
A suspension of N-(3-fluorophenethyl)-4-(trifluoromethyl)benzamide (2.8 g, 8.9 mmol) and phosphoric pentoxide (0.6 g, 0.45 mmol) in polyphosphoric acid (62.0 g, 8.9 mmol) was heated at 170° C. for 75 min. The hot reaction mixture was poured into ice and KOH (20% W/V, 50 mL) was added followed by diethyl ether (100 mL) and stirred for 5 mins. Additional KOH was added until pH˜11.0 was achieved. Then, EtOAc (200 mL) was added and the mixture continued stirring at RT for an additional 5 min. and the ethyl acetate layer was separated. The aqueous layer was back-extracted with ethyl acetate (3×200 mL). The combined ethyl acetate layers were dried over anhydrous sodium sulfate, and concentrated under vacuum to provide 6-fluoro-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline as a yellow oil. MS (ESI pos. ion) m/z: 294 (M+H).

reactant | N-(3-fluorophenethyl)-4-(trifluoromethyl)benzamide | 8.9 mmol, 2.8 g | FC=1C=C(CCNC(C2=CC=C(C=C2)C(F)(F)F)=O)C=CC1 | C16H13F4NO
reactant | phosphoric pentoxide | 0.45 mmol, 0.6 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | KOH | 50 mL | [OH-].[K+]
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 6-fluoro-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline | FC=1C=C2CCN=C(C2=CC1)C1=CC=C(C=C1)C(F)(F)F | C16H11F4N
